US06391520B1
5 In an atmosphere of nitrogen, 15 mmol of aluminum lithium hydride was suspended in 15 ml of tetrahydrofuran (THF). Thereafter, 10 mmol of 1-carboxy-3,5,7-adamantanetriol was gradually added to the mixture while keeping the temperature of the mixture at 10° C. or lower by using ice bath. After the temperature of the mixture had been brought back to room temperature, the mixture was refluxed for 16 hours, giving 1-hydroxymethyl-3,5,7-adamantanetriol.

reactant | aluminum lithium hydride | 15 mmol | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | 1-carboxy-3,5,7-adamantanetriol | 10 mmol | C(=O)(O)C12CC3(CC(CC(C1)(C3)O)(C2)O)O | C11H16O5
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-hydroxymethyl-3,5,7-adamantanetriol | OCC12CC3(CC(CC(C1)(C3)O)(C2)O)O | C11H18O4
